US05068334
3,4-Dimethyl-7,8-dihydro-2,5(1H,6H)-quinolinedione
Prepared from 3,4-dimethyl-5,6,7,8-tetrahydro-cumarin- 5-one (melting point: 109°-111° C., prepared from methyl 2methylacetoacetate and cyclohexan-1,3-dione) and methanolic ammonia for one hour in an autoclave at 150° C.

reactant | 3,4-dimethyl-5,6,7,8-tetrahydro-cumarin- 5-one | CC=1C(OC=2CCCC(C2C1C)=O)=O | C11H12O3
reactant | ammonia | N | H3N
product | 3,4-Dimethyl-7,8-dihydro-2,5(1H,6H)-quinolinedione | CC=1C(NC=2CCCC(C2C1C)=O)=O | C11H13NO2
